2140-11-17 06:49:00 Physician Resident Progress Note
Chief Complaint: Hyperglycemia
   24 Hour Events:
 EKG - At [**2140-11-17**] 06:15 AM
   O/n anion gap closed, Glucose since midnight 141, 143, 152, 137, 150
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2140-11-17**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 103 (103 - 121) bpm
   BP: 140/79(94) {122/72(87) - 142/97(101)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     26 mL
                                                                  1,600 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                     26 mL
                                                                  1,540 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                  1,300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   401 K/uL
   12.7 g/dL
   140 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   21 mg/dL
   104 mEq/L
   136 mEq/L
   35.7 %
   19.8 K/uL
        [image002.jpg]
                            [**2140-11-16**]  11:06 PM
                            [**2140-11-17**]  04:14 AM
   WBC
   16.0
   19.8
   Hct
   40.0
   35.7
   Plt
   452
   401
   Cr
   1.6
   1.3
   TropT
   0.06
   0.11
   Glucose
   229
   140
   Other labs: PT / PTT / INR:13.7/20.2/1.2, CK / CKMB /
   Troponin-T:241/10/0.11, Lactic Acid:2.2 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Elevated cardiac enzymes
 HYPERGLYCEMIA
   -- Hyponatremia
   --Hep C
   --DM type 2
   --ARF
   --Leukocytosis
   Assessment: This is a 55 yo man with DM type 2, insulin dependent ,
   hepatitis C  who presented overnight w/ sx of weakness and polyuria,
   found to have BG >1000, anion gap acidosis, leukocytosis and acute
   renal failure.
   .
   Plan:
   # Diabetic ketoacidosis: CXR clear and U/A without sign of infection.
   However, WBC
s continue to rise. No chest pain to suggestive cardiac
   etiology, EKG without ischemic changes but CE trending up likely [**2-20**]
   tachycardia/ incr demand.
   - Metabolic acidosis/Dehydration: Anion gap 27 on admission. + ketones
   in urine. Venous pH 7.33. Also w/ significant component of dehydration.
   Now, AG resolved to 11.
   - Transition insulin gtt to Lantus at 19 (half dose) plus RISS
   - IVF- cont NS at 200/hr for now
   -Start diabetic regular diet this am
   - rpt labs with CE at 11am- pt is v difficult stick
   - q1hr fingersticks
   - blood, urine cx pending
   .
   # Elevated [**Name (NI) 3146**] Pt with 0.06 trop on admission. Trop now risen to 0.11
   with no EKG changes and pt asymptomatic, likely [**2-20**] tachycardia
   -Rechk CE with lytes and CBC at 11am
   .
   # Acute renal failure: Creatinine 2.0 on admission now down to 1.3
   after aggressive hydration (baseline from [**2131**] appears to be 0.8).
   Most likely prerenal secondary to volume depletion, however keep AIN in
   ddx given recent NSAID use.
   - check urine lytes, urine eos
   - IVFs as above
   - renally dose meds as appropriate
   .
   # Hyponatremia: Na 123 on admission, now normalized to 136. Most likely
   secondary to volume depletion as improved with IVF.
   .
   # [**Name (NI) 3147**] Pt with WBC continuing to incr to 19.8 this am with no
   signs of symptoms of infection. Afebrile. Will continue to monitor
   closely
   .
   # Diabetes mellitus Type II: Followed at [**Last Name (un) 303**]. Overall sounds like pt
   having difficulty with qid fingersticks and insulin administration. It
   may make sense to switch to [**Hospital1 **] regimen of combined short and long
   acting insulin.
   - Will need to arrange close f/u appt.
   - Cont. secondary prevention w/ statin, aspirin. ACE-inhibitor being
   considered as an outpt.
   - Pneumovax and flu shot
 no record of pt having received either. TDAP
   given [**2140-10-19**]
   .
   # Hepatitis C: history of chronic hepatitis C and had initially been
   treated with interferon and ribavirin unsuccessfully.  He does not
   currently follow up with a liver specialist. No active issues.
   - check INR
   - help arrange outpt follow-up
   .
   # FEN: regular diabetic diet, IVFs as above, replete lytes prn
   # Access: PIV
   # PPx: heparin sc, pneumoboots, bowel regimen
   # Code: FULL, confirmed with pt, ICU consent signed
   # Dispo: will discuss with team transfer to floor vs discharge home
   today.
   # Comm:  brother [**Name (NI) 3139**] [**Name (NI) 3140**] ([**Telephone/Fax (1) 3141**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Lantus 19u daily
   Lines:
   20 Gauge - [**2140-11-16**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor or d/c home this afternoon- will discuss
   with team
   ------ Protected Section ------
   After rounds today, the following changes were made to above:
   We added h/o +PPD in distant past w/ tx for 1 yr- this is not an active
   issue at this time and CXR shows no sign of active infxn.
   Pt will have rpt labs at 11am incl CBC with diff and CE to trend.
   Will order TTE today
   Will give home dose glargine 38 units tonight
   Pt to be called out to floor today
   ------ Protected Section Addendum Entered By:[**Name (NI) 3152**] [**Last Name (NamePattern1) 916**], MD
   on:[**2140-11-17**] 10:45 ------

2140-11-17 10:16:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2140-11-17**] 06:15 AM
   Aggressive IVF replacement overnight
   Gap closed
   Insulin drip discontinued at 5:00 am this morning; started lantis
   Fluid changed to D5 NS
   Encouraging po's
   Creatinine improved with hydration
   Had been taking motrin x 5 days for sciatic; stopped 5 days prior to
   admission
                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-17**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-17**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.6
   HR: 110 (103 - 121) bpm
   BP: 137/75(89) {122/72(87) - 142/97(101)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     26 mL
                                                                  3,220 mL
   PO:
             1,060 mL
   TF:
   IVF:
                                                                     26 mL
                                                                  2,160 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                  2,920 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   401 K/uL
   140 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   21 mg/dL
   104 mEq/L
   136 mEq/L
   35.7 %
   19.8 K/uL
        [image002.jpg]
                            [**2140-11-16**]  11:06 PM
                            [**2140-11-17**]  04:14 AM
   WBC
   16.0
   19.8
   Hct
   40.0
   35.7
   Plt
   452
   401
   Cr
   1.6
   1.3
   TropT
   0.06
   0.11
   Glucose
   229
   140
   Other labs: PT / PTT / INR:13.7/20.2/1.2, CK / CKMB /
   Troponin-T:241/10/0.11, Differential-Neuts:91.5, Band:0, Lactic
   Acid:2.2 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: urinalysis positive for glucose/ketones
   Imaging: CXR:  Normal heart, no infiltrates, CHF or effusions
   Microbiology: Blood cultures: pending
   ECG: Sinus tachycardia, small q's inferiorly, no acute STTW changes
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 DIABETIC KETOACIDOSIS (DKA) secondary to medicine noncompliance and
   possible infection given worsening leukocytosis.  No complaints
   pointing to where the infection might be.  Surveillance blood culutres
   pending.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) secondary to
   dehydration in setting of DKA. Had recently been on NSAIDS for sciatica
   - doubt this is contributing to renal insufficiency given this has
   improved with hydration.  Continue to trend creatinine.  Will also
   check urine eosinophils.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY), pseudohyponatremia in
   setting of elevated blood sugars. Resolved.
 LEUKOCYTOSIS:  WBC increased despite aggressive hydration.  Will
   check repeat differential.
 HEPATITIS OTHER
   Hepatitis C
 CARDIAC:  Small enzyme leak in setting of tachycardia, severe
   dehydration.  Likely rate related.  With underlying diabetes .
   Continue ASA, statin. Echo to evaluate for evidence of wall motion
   abnormalities.
   ICU Care
   Nutrition:
   Comments: Advance diabetic diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2140-11-16**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2140-11-18 07:31:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2140-11-17**] 11:21 AM
 EKG - At [**2140-11-17**] 07:18 PM
   - Urine lytes with FeNa of 0.7%
   - Cardiac enzymes flat, no ECG changes on repeat at 1900
   - Bolused 1L and restarted IVF
   - gap re-opened and restarted insulin gtt in the am. D/c'd insulin gtt
   after Lantus given at 8p.
   - re-examined patient and no signs of joint, skin, or oral infection.
   Patient denies nausea, vomitting or diarrhea.
   - Cardiac markers flat. TTE with normal EF of > 55%
   - WBC trend slightly down.
   - no signs of withdrawal.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-17**] 04:17 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Musculoskeletal: No(t) Joint pain, sciatic pain
   Integumentary (skin): No(t) Rash
   Endocrine: Hyperglycemia
   Neurologic: Headache
   Pain: [**3-22**] Mild
   Flowsheet Data as of  [**2140-11-18**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 92 (82 - 122) bpm
   BP: 125/66(80) {113/54(70) - 151/83(100)} mmHg
   RR: 18 (8 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,592 mL
                                                                  1,347 mL
   PO:
                                                                  2,310 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  6,282 mL
                                                                  1,197 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    325 mL
   Urine:
                                                                  2,500 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,092 mL
                                                                  1,022 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dentures in
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   330 K/uL
   11.2 g/dL
   135 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   134 mEq/L
   31.5 %
   15.0 K/uL
        [image002.jpg]
                            [**2140-11-16**]  11:06 PM
                            [**2140-11-17**]  04:14 AM
                            [**2140-11-17**]  11:22 AM
                            [**2140-11-17**]  08:16 PM
                            [**2140-11-18**]  03:53 AM
   WBC
   16.0
   19.8
   23.9
   17.3
   15.0
   Hct
   40.0
   35.7
   35.1
   32.7
   31.5
   Plt
   452
   401
   405
   381
   330
   Cr
   1.6
   1.3
   1.3
   1.1
   1.0
   TropT
   0.06
   0.11
   0.07
   Glucose
   [**Telephone/Fax (3) 3176**]00
   135
   Other labs: PT / PTT / INR:13.7/20.2/1.2, CK / CKMB /
   Troponin-T:254/10/0.07, Differential-Neuts:71.0 %, Lymph:20.5 %,
   Mono:7.4 %, Eos:0.7 %, Lactic Acid:2.2 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 TUBERCULOSIS
    h/o +PPD treated for 1 yr in distant past
 LEUKOCYTOSIS
 DIABETES MELLITUS (DM), TYPE II
 HEPATITIS OTHER
   Hepatitis C
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 DIABETIC KETOACIDOSIS (DKA)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Elevated cardiac enzymes
 HYPERGLYCEMIA
   Assessment: This is a 55 yo man with DM type 2, insulin dependent ,
   hepatitis C  who presented [**11-16**] w/ sx of weakness and polyuria, found
   to have BG >1000, anion gap acidosis, leukocytosis and acute renal
   failure.
   .
   Plan:
   # Diabetic ketoacidosis: CXR clear and U/A without sign of infection.
   However, WBC
s peaked at 23.9 now down to 15. No chest pain to
   suggestive cardiac etiology, EKG without ischemic changes but CE peaked
   at 0.11 likely [**2-20**] tachycardia/ incr demand.
   - Metabolic acidosis/Dehydration: Anion gap 27 on admission. + ketones
   in urine. Venous pH 7.33. Also w/ significant component of dehydration.
   AG closed on [**11-17**] but then opened on 11am labs to 20 and Insulin gtt
   was restarted briefly. Last night at 8p, AG closed to 10, Lantus was
   given and Insulin gtt was stopped. AG currently 10, FS overnight all
   <200.
   -RISS, Lantus 38 u Daily
   - IVF off for now, pt taking PO diabetic diet
   - rpt labs this afternoon
   - may space out FS this afternoon
   - blood, urine cx pending
   .
   # Elevated [**Name (NI) 3146**] Pt with 0.06 trop on admission. Trop  peaked at  0.11
   then down to 0.07 with no EKG changes and pt asymptomatic, likely [**2-20**]
   tachycardia
   .
   # Acute renal failure: Creatinine 2.0 on admission now down to 1.0
   after aggressive hydration (baseline from [**2131**] appears to be 0.8).
   Most likely prerenal (Fe NA 0.7%) secondary to volume depletion,
   however keep AIN in ddx given recent NSAID use.
   - IVF now off as pt is getting good PO
   .
   # Hyponatremia: Na 123 on admission, quickly normalized and now  134.
   Most likely secondary to volume depletion as improved with IVF.
   .
   # [**Name (NI) 3147**] Pt with WBC peak at 23.9 now 15.  no signs of symptoms
   of infection- skin, joints and mouth were all reexamined with no
   evidence of infxn. Afebrile. Will continue to monitor  closely
   .
   # Diabetes mellitus Type II: Followed at [**Last Name (un) 303**]. Overall sounds like pt
   having difficulty with qid fingersticks and insulin administration.
   - Will need to arrange close f/u appt.
   - Cont. secondary prevention w/ statin, aspirin. ACE-inhibitor being
   considered as an outpt.
   - Pneumovax and flu shot given this hospitalization.
   .
   # Hepatitis C: history of chronic hepatitis C and had initially been
   treated with interferon and ribavirin unsuccessfully.  He does not
   currently follow up with a liver specialist. No active issues.
   - Pt needs outpt follow-up
   .
   # FEN: regular diabetic diet, replete lytes prn
   # Access: PIV
   # PPx: heparin sc, pneumoboots, bowel regimen
   # Code: FULL, confirmed with pt, ICU consent signed
   # Dispo: will discuss with team transfer to floor vs discharge home
   today.
   # Comm:  brother [**Name (NI) 3139**] [**Name (NI) 3140**] ([**Telephone/Fax (1) 3141**]
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale, Lantus 38u daily
   Lines:
   20 Gauge - [**2140-11-16**] 09:00 PM
   22 Gauge - [**2140-11-17**] 10:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2140-11-18 12:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2140-11-17**] 11:21 AM
 EKG - At [**2140-11-17**] 07:18 PM
   Transiently back on insulin drip last pm given hyperglycemia, widening
   gap.
   Also received more IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-17**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-18**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 100 (82 - 120) bpm
   BP: 140/84(97) {113/54(70) - 151/84(100)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,592 mL
                                                                  1,587 mL
   PO:
                                                                  2,310 mL
                                                                    390 mL
   TF:
   IVF:
                                                                  6,282 mL
                                                                  1,197 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    575 mL
   Urine:
                                                                  2,500 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,092 mL
                                                                  1,012 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   330 K/uL
   135 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   134 mEq/L
   31.5 %
   15.0 K/uL
        [image002.jpg]
                            [**2140-11-16**]  11:06 PM
                            [**2140-11-17**]  04:14 AM
                            [**2140-11-17**]  11:22 AM
                            [**2140-11-17**]  08:16 PM
                            [**2140-11-18**]  03:53 AM
   WBC
   16.0
   19.8
   23.9
   17.3
   15.0
   Hct
   40.0
   35.7
   35.1
   32.7
   31.5
   Plt
   452
   401
   405
   381
   330
   Cr
   1.6
   1.3
   1.3
   1.1
   1.0
   TropT
   0.06
   0.11
   0.07
   Glucose
   [**Telephone/Fax (3) 3176**]00
   135
   Other labs: PT / PTT / INR:13.7/20.2/1.2, CK / CKMB /
   Troponin-T:254/10/0.07, Differential-Neuts:71.0 %, Lymph:20.5 %,
   Mono:7.4 %, Eos:0.7 %, Lactic Acid:2.2 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 TUBERCULOSIS
    h/o +PPD treated for 1 yr in distant past
 LEUKOCYTOSIS:  WBC starting to trend down, no positive cultures,
   evident infectious source on re-exam. Likely stress-induced.  Follow-up
   on final culture data.
 DIABETES MELLITUS (DM), TYPE II, DIABETIC KETOACIDOSIS:  Now off
   insulin drip, eating and drinking, well hydrated, electrolytes
   repleted.
 HEPATITIS OTHER
   Hepatitis C
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Resolved. Good urine
   output.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Elevated cardiac enzymes.  Echo normal.
   Agree with the medical ICU resident's assessment and plan.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-11-16**] 09:00 PM
   22 Gauge - [**2140-11-17**] 10:38 PM
   Prophylaxis:
   DVT: (patient ambulating)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes